US06011174
(2) Preparation of 5-diphenylmethyl 4-methyl (2RS,4S,5S)-2-ethoxy-1,3-dioxolane-4,5-dicarboxylate
400 mg of diphenylmethyl methyl D-tartarate was dissolved in 7 ml of toluene, and a catalytic amount of Amberlyst 15 and 1 ml of triethyl orthoformate were added, followed by refluxing under heating for one hour. Amberlyst was filtered off. Then, the filtrate was extracted by an addition of water and ethyl acetate. The organic layer was washed with a saturated sodium hydrogen carbonate aqueous solution and a saturated sodium chloride aqueous solution and then, dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to obtain 195 mg of the above identified compound as a colorless oily substance.

reactant | diphenylmethyl methyl D-tartarate | 400 mg | C([C@@H](O)[C@H](O)C(=O)OC)(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C18H18O6
reactant | triethyl orthoformate | 1 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
product | 5-diphenylmethyl 4-methyl (2RS,4S,5S)-2-ethoxy-1,3-dioxolane-4,5-dicarboxylate | C(C)OC1O[C@@H]([C@H](O1)C(=O)OC)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H22O7
